US07754742B2
2-Cyclopropyl-1-(2,4-dihydroxy-phenyl)-ethanone
Stir 1-bromo-2,4-bis-(tert-butyl-dimethyl-silanyloxy)-benzene (100 g, 240 mmol) in diethyl ether (1 L, anhydrous) at −60° C. and treat with 1.7M tert-butyllithium in pentane (290 mL, 493 mmol) via addition funnel over a 10 minute period. Stir for 15 min, then treat with 2-cyclopropyl-N-methoxy-N-methyl-acetamide (34 g, 237 mmol) in a minimum amount of ethyl ether. Remove cold bath, stir for 1 hr, treat with 1N aqueous hydrochloric acid (100 mL), and stir for an additional hour. Separate the layers and wash the organic layer with 1N aqueous hydrochloric acid (100 mL), brine, dry with magnesium sulfate, filter, and evaporate. Dissolve the residue in tetrahydrofuran (1 L), treat with 1N tetrabutylammonium fluoride solution in tetrahydrofuran (500 mL, 500 mmol), and stir for 3 hrs. Pour mixture into 1 L of water containing 120 mL of 5N hydrochloric acid, separate layers, and extract water layer twice with ethyl acetate. Wash organic layers with brine, dry with magnesium sulfate, filter, and evaporate. Chromatograph residue on silica gel (Biotage® Radial Compression fitted with a 75-L column) eluting with 25% ethyl acetate in hexanes to isolate the title compound (43 g, 94% yield). 1H NMR (CDCl3) δ 12.83 (s, 1H), 7.60 (d, J=8.0 Hz, 1H), 6.39 (m, 2H), 5.98 (s, 1H), 2.80 (d, J=4.0 Hz, 2H), 1.13 (m, 1H), 0.60 (m, 2H), 0.22 (m, 2H).

reactant | 1-bromo-2,4-bis-(tert-butyl-dimethyl-silanyloxy)-benzene | 240 mmol, 100 g | BrC1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C18H33BrO2Si2
reactant | tert-butyllithium | 1.7M | C(C)(C)(C)[Li]
reactant | pentane | 493 mmol, 290 mL | CCCCC | C5H12
reactant | 2-cyclopropyl-N-methoxy-N-methyl-acetamide | 237 mmol, 34 g | C1(CC1)CC(=O)N(C)OC | C7H13NO2
reactant | tetrabutylammonium fluoride | 1N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 500 mmol, 500 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | diethyl ether | 1 L | C(C)OCC | C4H10O
solvent | water | 1 L | O | H2O
product | 2-Cyclopropyl-1-(2,4-dihydroxy-phenyl)-ethanone | 43 g, 94% yield | C1(CC1)CC(=O)C1=C(C=C(C=C1)O)O | C11H12O3
